data/polar.json
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:21])([O:29][CH2:3][c:19]1[cH:23][cH:9][cH:13][cH:12][cH:26]1)[N:34]=[N:33][C:2](=[O:22])[O:30][CH2:4][c:20]1[cH:24][cH:10][cH:14][cH:11][cH:25]1.[cH:5]1[cH:15][c:37]([CH:7]=[C:41]2[CH:38]=[CH:27][C:35](=[N+:36]([O-:31])[O-:32])[CH:28]=[CH:39]2)[cH:16][cH:6][c:17]1[N+:40](=[O:8])[O-:18]>>[C:1]([O-:21])([O:29][CH2:3][c:19]1[cH:23][cH:9][cH:13][cH:12][cH:26]1)=[N:34][N:33]([C:2](=[O:22])[O:30][CH2:4][c:20]1[cH:24][cH:10][cH:14][cH:11][cH:25]1)[CH:7]([c:37]1[cH:15][cH:5][c:17]([N+:40](=[O:8])[O-:18])[cH:6][cH:16]1)[c:41]1[cH:38][cH:27][c:35]([N+:36](=[O:31])[O-:32])[cH:28][cH:39]1", "epd": [["LP-/Pi+", [31], [36, 31]], ["Pi-/Pi+", [35, 36], [27, 35]], ["Pi-/Pi+", [38, 27], [41, 38]], ["Pi-/Sigma+", [7, 41], [7, 33]], ["Pi-/Pi+", [33, 34], [34, 1]], ["Pi-/LP+", [1, 21], [21]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[N:1]1([c:25]2[cH:35][cH:2][n:40][cH:3][cH:36]2)[CH2:20][CH2:39][CH2:4][CH:21]1[C:32]([c:26]1[cH:7][cH:15][cH:22][cH:16][cH:8]1)([c:27]1[cH:9][cH:17][cH:23][cH:18][cH:10]1)[F:38].[cH:5]1[cH:19][cH:6][c:11]2[c:24]([o+:12][c:14](-[c:34]3[cH:30][cH:28][cH:37][cH:29][cH:31]3)[cH:13][cH:33]2)[cH:41]1>>[N+:1]1(=[c:25]2[cH:35][cH:2][n:40]([CH:33]3[c:11]4[cH:6][cH:19][cH:5][cH:41][c:24]4[O:12][C:14]([c:34]4[cH:30][cH:28][cH:37][cH:29][cH:31]4)=[CH:13]3)[cH:3][cH:36]2)[CH2:20][CH2:39][CH2:4][CH:21]1[C:32]([c:26]1[cH:7][cH:15][cH:22][cH:16][cH:8]1)([c:27]1[cH:9][cH:17][cH:23][cH:18][cH:10]1)[F:38]", "epd": [["LP-/Pi+", [1], [1, 25]], ["Pi-/Pi+", [25, 36], [3, 36]], ["Pi-/Sigma+", [3, 40], [33, 40]], ["Pi-/LP+", [12, 14], [12]], ["Pi-/Pi+", [13, 33], [13, 14]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]([O:12][C:23](=[O:9])[N:19]=[CH:11][c:6]1[cH:2][cH:14][cH:18][cH:15][cH:3]1)([CH3:20])([CH3:21])[CH3:22].[cH:4]1[cH:7][c:8]2[c:24]([cH:13][cH:25]1)[CH:17]=[CH:5][CH:16]2[Li:10]>>[C:1]([O:12][C:23]([O-:9])=[N:19][CH:11]([c:6]1[cH:2][cH:14][cH:18][cH:15][cH:3]1)[CH:16]1[CH:5]=[CH:17][c:24]2[c:8]1[cH:7][cH:4][cH:25][cH:13]2)([CH3:20])([CH3:21])[CH3:22].[Li+:10]", "epd": [["Sigma-/Sigma+", [16, 10], [16, 11]], ["Pi-/Pi+", [11, 19], [19, 23]], ["Pi-/LP+", [23, 9], [9]]]}
{"reaction_name": "Chloroformate activation", "rsmi": "[C:1](=[O:2])([Cl:6])[Cl:7].[CH3:3][CH2:8][O:4][H:5]>>[C:1](=[O:2])([O:4][CH2:8][CH3:3])[Cl:6].[H:5][Cl:7]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Pi-/LP+", [1, 2], [2]], ["LP-/Pi+", [2], [1, 2]], ["Sigma-/LP+", [1, 7], [7]], ["LP-/Sigma+", [7], [5, 7]], ["Sigma-/LP+", [4, 5], [4]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[C:3]1(=[CH2:14])[N:19]([CH3:8])[c:18]2[cH:12][cH:15][cH:16][cH:13][c:17]2[N:20]1[CH3:9].[N:1]1([S:4][C:21]([F:5])([F:6])[F:7])[S:2](=[O:23])(=[O:24])[c:10]2[c:26]([cH:25][cH:11][cH:27][cH:29]2)[C:28]1=[O:22]>>[N:1]1=[C:28]([O-:22])[c:26]2[c:10]([cH:29][cH:27][cH:11][cH:25]2)[S:2]1(=[O:23])=[O:24].[c:3]1([CH2:14][S:4][C:21]([F:5])([F:6])[F:7])[n+:19]([CH3:8])[c:18]2[cH:12][cH:15][cH:16][cH:13][c:17]2[n:20]1[CH3:9]", "epd": [["LP-/Pi+", [19], [3, 19]], ["Pi-/Sigma+", [14, 3], [14, 4]], ["Sigma-/Pi+", [4, 1], [1, 28]], ["Pi-/LP+", [28, 22], [22]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:8]1[N+:16](=[CH:4][CH:31]=[CH:9][c:22]2[cH:5][cH:17][cH:3][cH:18][cH:6]2)[CH:14]([CH2:32][c:26]2[cH:37][cH:12][cH:19][cH:13][cH:38]2)[C:21](=[O:7])[N:27]1[CH3:20])([CH3:23])([CH3:24])[CH3:25].[C:2]1([O:33][Si:11]([CH3:34])([CH3:35])[CH3:36])=[C:30]([CH3:28])[CH2:15][CH2:10][O:29]1>>[C:1]([CH:8]1[N:16]([CH:4]=[CH:31][CH:9]([c:22]2[cH:5][cH:17][cH:3][cH:18][cH:6]2)[C:30]2([CH3:28])[C:2](=[O+:33][Si:11]([CH3:34])([CH3:35])[CH3:36])[O:29][CH2:10][CH2:15]2)[CH:14]([CH2:32][c:26]2[cH:37][cH:12][cH:19][cH:13][cH:38]2)[C:21](=[O:7])[N:27]1[CH3:20])([CH3:23])([CH3:24])[CH3:25]", "epd": [["LP-/Pi+", [33], [2, 33]], ["Pi-/Sigma+", [30, 2], [30, 9]], ["Pi-/Pi+", [9, 31], [31, 4]], ["Pi-/LP+", [4, 16], [16]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[CH3:1][CH2:8][O:7][C:18]([CH:2]=[C:9]([CH3:19])[N:25]=[N:14][C:4](=[O:15])[NH:17][c:20]1[cH:22][cH:12][cH:21][cH:13][cH:23]1)=[O:16].[cH:3]1[n:5][c:11]([O-:10])[cH:26][cH:6][cH:24]1>>[CH3:1][CH2:8][O:7][C:18]([CH:2]([n:5]1[cH:3][cH:24][cH:6][cH:26][c:11]1=[O:10])[C:9]([CH3:19])=[N:25][N:14]=[C:4]([O-:15])[NH:17][c:20]1[cH:22][cH:12][cH:21][cH:13][cH:23]1)=[O:16]", "epd": [["Pi-/Sigma+", [3, 5], [2, 5]], ["Pi-/Pi+", [2, 9], [9, 25]], ["LP-/Pi+", [10], [10, 11]], ["Pi-/Pi+", [14, 25], [4, 14]], ["Pi-/LP+", [4, 15], [15]], ["Pi-/Pi+", [6, 24], [3, 24]], ["Pi-/Pi+", [11, 26], [6, 26]]]}
